US08222248B2
A solution of 4-bromomethyl-3-nitrobenzoic acid methyl ester (1.89 g, 6.9 mmol) and Ph3P (1.82 g, 6.9 mmol) in DMF (35 mL) was heated at 100° C. for 1 h then 2,6-dichlorobenzaldehyde (1.2 g, 6.9 mmol) was added followed by K2CO3 (1.9 g, 13.75 mmol). The resulting deep-red mixture was stirred at 100° C. for 18 h then was allowed to cool to ambient temperature. To this was added water and the mixture was extracted with EtOAc. The organic phase was washed with water (3×) and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by chromatography using methylene chloride as eluent to give 4-[(E)-2-(2,6-dichlorophenyl)-vinyl]-3-nitrobenzoic acid methyl ester as a pale-yellow solid.

reactant | 4-bromomethyl-3-nitrobenzoic acid methyl ester | 6.9 mmol, 1.89 g | COC(C1=CC(=C(C=C1)CBr)[N+](=O)[O-])=O | C9H8BrNO4
reactant | Ph3P | 6.9 mmol, 1.82 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2,6-dichlorobenzaldehyde | 6.9 mmol, 1.2 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | K2CO3 | 13.75 mmol, 1.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[(E)-2-(2,6-dichlorophenyl)-vinyl]-3-nitrobenzoic acid methyl ester | COC(C1=CC(=C(C=C1)\C=C\C1=C(C=CC=C1Cl)Cl)[N+](=O)[O-])=O | C16H11Cl2NO4
